US04024266
24.5 g of 4-(1-methyl-4-piperidylidene)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-10(9H)-one were dissolved in 750 ml of boiling cyclohexane. The mixture was cooled to 50° and whilst this temperature was maintained 10.7 g of potassium tert-butylate were added. The resulting suspension was cooled to 20°, and whilst this temperature was maintained 12.4 g of methyl iodide were slowly added dropwise. The mixture was stirred for a further 1 hour and then treated with 100 ml of water and 100 ml of benzene. The organic phase was separated off and evaporated to yield crude 9-methyl-4-(1-methyl-4-piperidylidene)-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-10(9H)-one as an oil which can be used further in crude form (M.Pt. of hydrogen fumarate 213°-215° from ethanol).

reactant | 4-(1-methyl-4-piperidylidene)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-10(9H)-one | 24.5 g | CN1CCC(CC1)=C1C2=C(CC(C=3SC=CC31)=O)C=CC=C2 | C19H19NOS
reactant | potassium tert-butylate | 10.7 g | CC(C)(C)[O-].[K+]
reactant | methyl iodide | 12.4 g | CI | CH3I
reactant | water | 100 ml | O | H2O
solvent | cyclohexane | 750 ml | C1CCCCC1 | C6H12
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 9-methyl-4-(1-methyl-4-piperidylidene)-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-10(9H)-one | CC1C2=C(C(C3=C(SC=C3)C1=O)=C1CCN(CC1)C)C=CC=C2 | C20H21NOS
